US06020334
(S)-4-Benzyloxycarbonylaminoacetyl-3-(3-t-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid t-butyl ester
In a saturated aqueous solution of sodium hydrogencarbonate was dissolved (S)-3-(3-t-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid t-butyl ester oxalate (1.6 g, 3.47 mmol). The solution was subjected to extraction with ethyl acetate, and the extract solution was concentrated under reduced pressure. The concentrate and N-Z-Gly-OH (0.87 g, 4.16 mmol) were dissolved in 16.0 cc of acetone. To the solution was added, at 15° C. under stirring, 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (0.87 g, 4.51 mmol). The mixture was stirred for one hour at room temperature, and the reaction mixture was concentrated under reduced pressure. The concentrate was washed with a 5% aqueous solution of potassium hydrogensulfate and a saturated aqueous solution of sodium hydrogencarbonate. The organic layer was concentrated under reduced pressure, and the concentrate was purified by means of a silica gel column chromatography (ethyl acetate) to afford 1.95 g (100%) of the titled compound as a colorless amorphous powdery product.

reactant | (S)-3-(3-t-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid t-butyl ester oxalate | 3.47 mmol, 1.6 g | C(C(=O)O)(=O)O.C(C)(C)(C)OC(CN1C([C@@H](NCC1)CCCNC(=O)OC(C)(C)C)=O)=O
reactant | N-Z-Gly-OH | 4.16 mmol, 0.87 g | N(CC(=O)O)C(=O)OCC1=CC=CC=C1 | C10H11NO4
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 4.51 mmol, 0.87 g | Cl.C(C)N=C=NCCCN(C)C
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetone | 16.0 cc | CC(=O)C | C3H6O
product | (S)-4-Benzyloxycarbonylaminoacetyl-3-(3-t-butoxycarbonylaminopropyl)-2-oxopiperazine-1-acetic acid t-butyl ester | 1.95 g, 100% | C(C)(C)(C)OC(CN1C([C@@H](N(CC1)C(CNC(=O)OCC1=CC=CC=C1)=O)CCCNC(=O)OC(C)(C)C)=O)=O | C28H42N4O8
